US07365095B2
Treatment of (2R)-2-(4′-chloro-6-fluoro-2′-methyl-3-(prop-1-enyl)biphenyl-2-yloxy)but-3-enyl 4-methylbenzenesulfonate (1.35 g, 2.69 mmol) with benzylidene-bis(tricyclohexylphosphine)dichlororuthenium (0.70 g, 0.85 mmol) in methylene chloride (30 mL) according to the procedure described for Example 69, Step 7 provided 0.5 g (41%) of ((2R)-8-(4-chloro-2-methylphenyl)-7-fluoro-2H-chromen-2-yl)methyl 4-methylbenzenesulfonate as a brown oil.

reactant | (2R)-2-(4′-chloro-6-fluoro-2′-methyl-3-(prop-1-enyl)biphenyl-2-yloxy)but-3-enyl 4-methylbenzenesulfonate | 2.69 mmol, 1.35 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@@H](C=C)OC1=C(C(=CC=C1C=CC)F)C1=C(C=C(C=C1)Cl)C | C27H26ClFO4S
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
catalyst | benzylidene-bis(tricyclohexylphosphine)dichlororuthenium | 0.85 mmol, 0.70 g | C1CCC(CC1)P(C2CCCCC2)C3CCCCC3.C1CCC(CC1)P(C2CCCCC2)C3CCCCC3.C1=CC=C(C=C1)C=[Ru](Cl)Cl
product | ((2R)-8-(4-chloro-2-methylphenyl)-7-fluoro-2H-chromen-2-yl)methyl 4-methylbenzenesulfonate | 0.5 g, 41% | CC1=CC=C(C=C1)S(=O)(=O)OC[C@@H]1OC2=C(C(=CC=C2C=C1)F)C1=C(C=C(C=C1)Cl)C | C24H20ClFO4S
